US06498172B1
3-(3-{[Benzenesulfonyl-(4-pyrimidin-2-yl-benzyl)-amino]-methyl}-phenyl)-propionic acid methyl ester
The title compound of Step B was prepared following the method described in Step B of Example 1 from 3-{3-[(4-pyrimidin-2-yl-benzylamino)-methyl]-phenyl}-propionic acid methyl ester, prepared in Step A of Example 11z, and benzenesulfonyl chloride using triethylamine in place of N,N-diisopropylethylamine. 1H NMR (400 MHz, CDCl3) δ 8.79 (m, 2H), 8.27 (dd, 2H), 7.88 (m, 2H), 7.61 (m, 1H), 7.55 (m, 2H), 7.18 (m, 1H), 7.12 (m, 3H), 7.03 (d, 1H), 6.88 (d, 1H), 6.79 (s, 1H), 4.38 (s, 2H), 4.32 (s, 2H), 3.65 (s, 3H), 2.79 (t, 2H), 2.48 (t, 2H); MS 502 (M+1).

reactant | 3-{3-[(4-pyrimidin-2-yl-benzylamino)-methyl]-phenyl}-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CNCC1=CC=C(C=C1)C1=NC=CC=N1)=O | C22H23N3O2
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-(3-{[Benzenesulfonyl-(4-pyrimidin-2-yl-benzyl)-amino]-methyl}-phenyl)-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CN(CC1=CC=C(C=C1)C1=NC=CC=N1)S(=O)(=O)C1=CC=CC=C1)=O | C28H27N3O4S
